US06664256B1
Preparation of 3-[4-(methylthio)phenyl]-6-phenylthio-4-[4-(phenylthio)phenyl]pyridazine
In a similar manner as in Example 2, 6-chloro-4-(4-chlorophenyl)-3-[4-(methylthio)phenyl]pyridazine (150 mg, 0.303 mmol) and thiophenol (119 mg) were reacted as starting materials at 150° C. for 20 hours and post-treatment was then conducted, whereby the title compound was obtained as a pale yellow crystalline powder (85.0 mg, 39.8%). Melting point: 53.3-56.2° C.(diethyl ether-hexane).

reactant | 6-chloro-4-(4-chlorophenyl)-3-[4-(methylthio)phenyl]pyridazine | 0.303 mmol, 150 mg | ClC1=CC(=C(N=N1)C1=CC=C(C=C1)SC)C1=CC=C(C=C1)Cl | C17H12Cl2N2S
reactant | thiophenol | 119 mg | C1(=CC=CC=C1)S | C6H6S
product | 3-[4-(methylthio)phenyl]-6-phenylthio-4-[4-(phenylthio)phenyl]pyridazine | CSC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)SC1=CC=CC=C1)SC1=CC=CC=C1 | C29H22N2S3
